US06407092B1
Preparation of 5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-one oxalate
A solution of potassium hydroxide (0.80 g, 14.3 mmol) in H2O (20 mL) was added to a solution of ethyl 3-(3-benzoyl-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanoate (4.25 g, 10.9 mmol) in THF (30 mL). The reaction mixture was heated at 60° C. for 1 h, then cooled to room temperature, acidified with 10% aqueous HCl, and extracted with EtOAc. The combined organic extracts were washed with saturated aqueous NaCl, dried over Na2SO4, decanted, and concentrated under reduced pressure to give 3.73 g of crude acid. The crude acid (2.00 g, 5.52 mmol) was then added to neat PPA (18.6 g) stirring at 100° C. under N2. After 1.5 h, the reaction was cooled to room temperature, quenched with ice and 10% aqueous NaOH, and then extracted with EtOAc. The combined organic extracts were washed with saturated aqueous NaCl, dried over Na2SO4, decanted, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography with EtOAc/hexanes (gradient 1:1 to 2:1) to give 0.81 g (43%) of the title compound as a yellow solid (mp 177.5-181° C.). 1H NMR (d-DMSO) δ 7.75, 7.46, 7.09, 4.45-4.24, 3.93, 3.61, 3.34, 3.17, 3.11-2.80; IR (drift) 1676, 1628, 1587, 1493, 1483, 1466, 1428, 1357, 1324, 1295, 1276, 1266, 1191, 754, 706 cm1.

reactant | potassium hydroxide | 14.3 mmol, 0.80 g | [OH-].[K+]
reactant | ethyl 3-(3-benzoyl-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)propanoate | 10.9 mmol, 4.25 g | C(C1=CC=CC=C1)(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CCC(=O)OCC | C24H26N2O3
reactant | HCl | Cl | ClH
reactant | H2O | 20 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-one oxalate | 0.81 g, 43% | C(C(=O)O)(=O)O.C1=CC=C2C(CCN3C2=C1C1=C3CCNCC1)=O | InChI=1S/C15H16N2O.C2H2O4/c18-14-6-9-17-13-5-8-16-7-4-10(13)11-2-1-3-12(14)15(11)17;3-1(4)2(5)6/h1-3,16H,4-9H2;(H,3,4)(H,5,6)
